US08242124B2
Part D: To a solution of 7-benzyl-4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (2.15 g, 7.1 mmol) and N,N-diisopropylethylamine (2.48 mL, 14.2 mmol) in dichloromethane (30 mL) at 0° C. was added 1-chloroethyl chloroformate (1.15 mL, 10.7 mmol) over several minutes. The resulting solution was stirred at 0° C. for 1.0 h and then at 25° C. for 20 h. To this solution was added a saturated aqueous sodium bicarbonate solution (50 mL), and the resulting two-phase mixture was stirred at 25° C. for 1.0 h. The phases were separated, and the aqueous phase was washed with dichloromethane. The combined organic phases were dried over anhyd. sodium sulfate, filtered, and concentrated. The residue was dissolved in methanol, and the solution was heated at reflux for 1.0 h. After cooling to room temperature the mixture was concentrated under vacuum. The residue was triturated with ethyl acetate, and the resulting solids were recovered by filtration and dried under vacuum to provide a purple solid. These solids were dissolved in a mixture of concentrated aqueous sodium carbonate solution and chloroform. The phases were separated, and the aqueous phase was washed twice with chloroform. The combined organic phases were washed with brine, dried over anhyd. sodium sulfate, filtered, and concentrated. The residue was maintained under high vacuum overnight and then dissolved in methanol. This solution was filtered to remove a dark solid and then concentrated under vacuum. Finally, this residue was dissolved in 1,4-dioxane at 25° C. To this solution was added dropwise an excess (˜1 mL) of 4N HCl in 1,4-dioxane. The resulting precipitate was recovered by filtration and dried under vacuum to furnish 4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine hydrochloride (0.93 g, 53%) as a brick-red solid; Mass Spec.: m/e: 213.05 (M+H)+ [calc'd: 213.11]; 1HNMR (500 MHz, DMSO-d6) δ 9.81 (br s, 2H), 9.17 (s, 1H), 8.76 (m, 1H), 8.15 (m, 1H), 7.59 (m, 1H), 4.49 (m, 2H), 3.41 (m, 4H).

reactant | 7-benzyl-4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 7.1 mmol, 2.15 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)C1=NC=CC=C1 | C19H18N4
reactant | N,N-diisopropylethylamine | 14.2 mmol, 2.48 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-chloroethyl chloroformate | 10.7 mmol, 1.15 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine hydrochloride | 0.93 g, 53% | Cl.N1=C(C=CC=C1)C=1C2=C(N=CN1)CNCC2 | InChI=1S/C12H12N4.ClH/c1-2-5-14-10(3-1)12-9-4-6-13-7-11(9)15-8-16-12;/h1-3,5,8,13H,4,6-7H2;1H
